US06833480B2
A solution of 2,4-difluorophenylacetylene (0.02 mol), 2,4-dichlorobenzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) is subjected to the General Procedure to form (Z)-2,4-difluorostyryl-2,4-dichlorobenzylsulfide. The title compound is obtained following oxidation of the sulfide, according to the General Procedure.

reactant | 2,4-difluorophenylacetylene | 0.02 mol | FC1=C(C=CC(=C1)F)C#C | C8H4F2
reactant | 2,4-dichlorobenzyl mercaptan | 0.02 mol | ClC1=C(CS)C=CC(=C1)Cl | C7H6Cl2S
reactant | sodium | 0.02 g | [Na] | Na
product | (Z)-2,4-difluorostyryl-2,4-dichlorobenzylsulfide | FC1=C(\C=C/C(C2=C(C=C(C=C2)Cl)Cl)SC(C2=C(C=C(C=C2)Cl)Cl)\C=C/C2=C(C=C(C=C2)F)F)C=CC(=C1)F | C30H18Cl4F4S
